US08604069B2
(A-82-6) N-Methoxy-N-methyl-3-isobutylcyclobutanecarboxamide
3-Isobutylcyclobutanecarboxylic acid (62.7 g) and DMF (500 mL) were mixed. To the mixture were added N,O-dimethylhydroxylamine hydrochloride (46.9 g), triethylamine (83.9 mL), HOBt.H2O (73.8 g) and WSC.HCl (92.3 g). The resulting mixture was stirred at RT overnight. To the reaction mixture was added water (500 mL). The mixture was extracted with ethyl acetate/hexane=1/1 (250 mL×2). The combined organic layer was washed with water (250 mL), aqueous 10 w/v % sodium carbonate (250 mL), water (250 mL), 1 N hydrochloric acid (500 mL), water, saturated aqueous sodium bicarbonate (250 mL) and then brine (250 mL). The organic layer was dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo to give the title compound (87.5 g) as a crude product.

reactant | 3-Isobutylcyclobutanecarboxylic acid | 62.7 g | C(C(C)C)C1CC(C1)C(=O)O | C9H16O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 46.9 g | Cl.CNOC
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 92.3 g | CCN=C=NCCCN(C)C.Cl
solvent | water | 500 mL | O | H2O
solvent | H2O | 73.8 g | O | H2O
solvent | triethylamine | 83.9 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | N-Methoxy-N-methyl-3-isobutylcyclobutanecarboxamide | 87.5 g | CON(C(=O)C1CC(C1)CC(C)C)C | C11H21NO2
